US09290465B2
To a solution of {3-[4-(4-methoxy-benzyloxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester (3.01 g, 7.6 mmol) in CH2Cl2 (80 mL) and water (8 mL) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (5.17 g, 23 mmol). After stirring for 60 h, the reaction mixture was suspended between a water/CH2Cl2 bilayer. The organic phase was removed and the aqueous phase was extracted twice with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo to give a deep red oil. [3-(4-Hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester (2.14 g, 92%) was isolated by chromatography (1-100% ethyl acetate in hexanes).

reactant | {3-[4-(4-methoxy-benzyloxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester | 7.6 mmol, 3.01 g | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC)=O | C22H24N2O5
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 23 mmol, 5.17 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | water CH2Cl2 | O.C(Cl)Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | water | 8 mL | O | H2O
product | [3-(4-Hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester | 2.14 g, 92% | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)O)=O | C14H16N2O4
